US04540788
1,4-Bis[[2-(heptylideneamino)ethyl]amino]-5,8-dihydroxy-9,10-anthracenedione.
When acetone and cyclohexanone were substituted for the aldehyde precursor in the general procedure for Examples 3-20 and the solvent was benzene or toluene the following compounds were obtained: 1,4-Dihydroxy-5,8-bis[[2-[(1-methylethylidene)amino]ethyl]amino]-9,10-anthracenedione;

reactant | acetone | CC(=O)C | C3H6O
reactant | cyclohexanone | C1(CCCCC1)=O | C6H10O
reactant | benzene | C1=CC=CC=C1 | C6H6
reactant | 1,4-Dihydroxy-5,8-bis[[2-[(1-methylethylidene)amino]ethyl]amino]-9,10-anthracenedione | OC1=CC=C(C=2C(C3=C(C=CC(=C3C(C12)=O)NCCN=C(C)C)NCCN=C(C)C)=O)O | C24H28N4O4
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 1,4-Bis[[2-(heptylideneamino)ethyl]amino]-5,8-dihydroxy-9,10-anthracenedione | C(CCCCCC)=NCCNC1=CC=C(C=2C(C3=C(C=CC(=C3C(C12)=O)O)O)=O)NCCN=CCCCCCC | C32H44N4O4
